US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-thiazol-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
To a flask containing 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.25 g, 0.64 mmol) and PdCl2(dppf) (0.023 g, 0.032 mmol) is added a 0.5 M solution of 2-thiazolylzinc bromide (3.82 mL, 1.91 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (25 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (15%-20% EtOAc gradient) furnish the title compound (0.19 g, 0.48 mmol, 76%). 1H NMR (CDCl3) δ 0.88 (t, J=7.5 Hz, 6H), 1.75-1.92 (m, 4H), 2.36 (s, 3H), 2.47 (s, 3H), 2.50 (, 3H), 3.29-3.39 (m, 1H), 6.69 (s, 1H), 7.33 (d, J=3.3 Hz, 1H), 7.89 (d, J=3.3 Hz, 1H), 7.99 (s, 1H). LC/MS (m/z): calcd. for C21H24N4S2 (M+H)+: 397.2; found: 397.3.

reactant | 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.64 mmol, 0.25 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | 2-thiazolylzinc bromide | 1.91 mmol, 3.82 mL | [Br-].S1C(=NC=C1)[Zn+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.032 mmol, 0.023 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-thiazol-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 0.48 mmol, 0.19 g, 76% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=C(C2C)C=2SC=CN2 | C21H24N4S2
